US07687495B2
e) (S)-1-(4-Methoxy-phenyl)-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine-2-carboxylic acid ethyl ester
To a stirred solution of 0.94 g (S)-1-(4-methoxy-phenyl)-4-oxo-1,2,3,4-tetrahydro-pyridine-2-carboxylic acid ethyl ester [690224-49-8] in 20 ml tetrahydrofuran is added a solution of 3.7 ml of L-selectride (0.5M, Aldrich 17, 849-7) at −78° C. The mixture is stirred for 1 hour and a solution of 1.18 g N-phenyltrifluoromethanesulfonimide (Fluka 78175) in 8 ml of tetrahydrofuran is added and the mixture is allowed to warm to room temperature overnight. The reaction mixture is concentrated under reduced pressure and the residue is purified by flash chromatography (aluminium oxide, Fluka 06290) to afford the title compound as a brown solid. Rf=0.2 (EtOAc-heptane 1:9); Rt=5.14.

reactant | (S)-1-(4-methoxy-phenyl)-4-oxo-1,2,3,4-tetrahydro-pyridine-2-carboxylic acid ethyl ester | 0.94 g | C(C)OC(=O)[C@H]1N(C=CC(C1)=O)C1=CC=C(C=C1)OC | C15H17NO4
reactant | L-selectride | 0.5M, 3.7 ml | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | N-phenyltrifluoromethanesulfonimide | 1.18 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (S)-1-(4-Methoxy-phenyl)-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(CC=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)OC | C16H18F3NO6S
